US07851473B2
(1) 2-Oxo-2-phenylethyl thiocyanate
A solution of α-bromoacetophenone (10.0 g, 50.0 mmol) and potassium thiocyanate (4.90 g, 50.0 mmol) in ethanol (80 ml) was stirred at 80° C. for 3 hours. After cooling to room temperature, a precipitated solid was collected by filtration, washed with 50% ethanol in water and dried to give 5.99 g (67.6%) of the desired product.

reactant | α-bromoacetophenone | 50.0 mmol, 10.0 g | BrCC(=O)C1=CC=CC=C1 | C8H7BrO
reactant | potassium thiocyanate | 50.0 mmol, 4.90 g | [S-]C#N.[K+]
solvent | ethanol | 80 ml | C(C)O | C2H6O
product | 2-Oxo-2-phenylethyl thiocyanate | 5.99 g, 67.6% | O=C(CSC#N)C1=CC=CC=C1 | C9H7NOS
